US05861369
Synthesis of (2--Carboxy--3--hydroxypropyl)iminodiacetic acid (CHPIDA) 6.65 g.
(0.05 mole) of iminodiacetic acid were suspended in 25 ml of water and neutralized with sodium hydroxide to pH=10-12. 6.5 g. (0.05 mole) of ethyl--2--hydroxymethylacrylate was added dropwise to the solution and the temperature of the resulting mixture increased to 80°C. The pH was maintained at 10-12 by further addition of sodium hydroxide. The reaction mixture was stirred at 80°C for 20 hours and then cooled to room temperature and acidified to pH=1.5 with concentrated hydrochloric acid. The solvent was distilled under reduced pressure to half the weight of the solution and the product was allowed to crystallize. The white precipitate was filtered, washed with water and methanol and then dried in a vacuum to 5.3 g. of white powder. The yield was 45% of theoretical and the product had a melting point of 195 °C.

reactant | iminodiacetic acid | 0.05 mole | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl--2--hydroxymethylacrylate | 0.05 mole | C(C)OC(C(=C)CO)=O | C6H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
product | (2--Carboxy--3--hydroxypropyl)iminodiacetic acid | yield was 45% | C(=O)(O)C(CN(CC(=O)O)CC(=O)O)CO | C8H13NO7
